US07253194B2
(R)-2-tert-Butoxycarbonylamino-3-[1-(3-phenyl-allyl)-1H-indol-3-yl]-propionic acid (6)
To 2-tert-butoxycarbonylamino-3-[1-(3-phenyl-allyl)-1H-indol-3-yl]-propionic acid benzyl ester (6.483 g. 12.71 mmol) in MeOH (25 mL) was added KOH (2.4 g, 42.86 mmol) in water (10 mL). THF (30 mL) was added until the solution became homogenous. The solution was stirred until completion (overnight). Volatile solvents were removed and the residue taken up into CH2Cl2 and water. The aqueous layer was carefully acidified with dilute aqueous HCl and extracted with-Et2O. The Et2O was washed with water and brine and then dried with MgSO4. The solution was filtered and the solvent removed to afford the required material without further purification (5.27 g, quantitative). ESMS 421 (M+H+) 1H NMR (DMSO-d6) δ 7.56-6.88 (11H, m), 6.47 (1H, d, 15.85 Hz), 6.40 (1H, dt, J=5.4, 15.85 Hz), 4.91 (2H, d, J=5Hz), 4.14 (1H, m), 3.15 (1H, m), 2.99 (1H, m), 1.29 (9H, s). 13C NMR (DMSO-d6) δ 173.8, 155.3, 136.1, 135.9, 131.4, 128.6, 127.9, 127.7, 126.8, 126.3, 125.8, 121.1, 118.6, 110.3, 109.9, 77.9, 54.6, 47.4, 28.1, 26. 8. ISMS: 421 (M+H),

reactant | 2-tert-butoxycarbonylamino-3-[1-(3-phenyl-allyl)-1H-indol-3-yl]-propionic acid benzyl ester | 12.71 mmol, 6.483 g | C(C1=CC=CC=C1)OC(C(CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C32H34N2O4
reactant | KOH | 42.86 mmol, 2.4 g | [OH-].[K+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 25 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (R)-2-tert-Butoxycarbonylamino-3-[1-(3-phenyl-allyl)-1H-indol-3-yl]-propionic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1 | C25H28N2O4
